Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Admission for second cycle of high dose Ara-C treatment for 
mantle cell lymphoma/leukemia with CNS involvement
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ male with mantle cell leukemia/lymphoma with CNS 
involvement presenting for admission for second cycle of high 
dose Ara-C treatment.  Pt reports feeling well.  He reports 
having stubbed his right great toe and now has some erythema 
there.  He has been taking keflex for the toe.  He also noted a 
rash on his right elbow/forearm today that is now resolving.  

Previously, he has had high dose Ara-C and two cycles of RCHOP.  
Initially, it was planned that he receive methotrexate in 
between cycles but he developed ___ and methotrexate has been 
held.   

Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies blurry vision, diplopia, loss of vision, 
photophobia. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations, lower 
extremity edema. Denies cough, shortness of breath, or wheezes. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain. 
All other systems negative.  
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- Mantel Cell Lymphoma, recently diagnosed 2 weeks ago, with new 
CNS involvement, s/p R-CHOP (Cycle 1, Day 1 on ___, Day 2 on 
___

PAST MEDICAL HISTORY:  
- Hypertension
- Prostate hypertrophy
- Chronic lymphocytic leukemia  
- Arthritis  
- Erectile dysfunction  
- Diverticulosis  
- Disc degeneration, lumbar  
- Sensorineural hearing loss with longstanding tinnitus
- s/p Appendectomy
- s/p Prostate biopsy (incisional)
- s/p Repair of deviated nasal septum

 
Social History:
___
Family History:
CABG, hyperlipidemia, mental retardation.

 
Physical Exam:
Admission:
Vitals - 98.0  113/62  75  18  95%RA   
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmers, gallops, or rubs
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema, no obvious deformities, mild erythema with no purulent 
drainage at right great toenail edge
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, cerebellar function (finger to nose, 
heel to shin) intact 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

Discharge:
Vitals - Patient was afebrile, normotensive, non-tachycardic, 
non-tachypneic, O2 sat >95% on room air  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmers, gallops, or rubs
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema, no obvious deformities, right great toenail trimmed 
without erythema or exudates
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, cerebellar function (finger to nose, 
heel to shin) intact 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
Admission Labs:
___ 10:58AM BLOOD WBC-6.8# RBC-3.26* Hgb-10.0* Hct-29.7* 
MCV-91 MCH-30.6 MCHC-33.5 RDW-19.0* Plt ___
___ 10:58AM BLOOD Neuts-60 Bands-15* Lymphs-14* Monos-7 
Eos-0 Baso-0 Atyps-3* Metas-1* Myelos-0
___ 10:58AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-NORMAL 
Macrocy-1+ Microcy-NORMAL Polychr-1+ Ovalocy-1+
___ 10:58AM BLOOD UreaN-15 Creat-1.4* Na-139 K-4.0 Cl-104 
HCO3-26 AnGap-13
___ 10:58AM BLOOD ALT-23 AST-27 LD(LDH)-285* AlkPhos-52 
TotBili-0.4
___ 10:58AM BLOOD Albumin-4.4 Calcium-9.5 Mg-1.9 
UricAcd-6.2

Discharge Labs:
___ 08:15AM BLOOD WBC-4.6 RBC-2.81* Hgb-8.6* Hct-25.6* 
MCV-91 MCH-30.5 MCHC-33.4 RDW-18.4* Plt ___
___ 08:15AM BLOOD Glucose-113* UreaN-21* Creat-1.2 Na-141 
K-4.0 Cl-108 HCO3-23 AnGap-14
___ 08:15AM BLOOD ALT-18 AST-22 AlkPhos-45 TotBili-0.2
___ 08:15AM BLOOD Calcium-8.8 Phos-4.3 Mg-2.___rief Course:
Mr. ___ is a ___ male with mantle cell 
leukemia/lymphoma with CNS involvement presenting for admission 
for second cycle of high dose Ara-C treatment.

Active Issues:
# Mantle Cell Lymphoma: Patient received his second cycle of 
high dose Ara-C, dose adjusted for renal function. He tolerated 
the treatment well without complications. He had no signs of 
cerebellar or renal toxicity, fevers, nausea, or vomiting. His 
cell counts remained stable and he did not require Neupogen. He 
will continue to use prednisolone eye drops until 48 hours after 
his last Ara-C dose and continue Bactrim for prophylaxis.  

# Ingrown Toenail: Patient's right great toe was noted to have 
erythema near the edge of the toenail. It was likely ingrown 
toenail. Podiatry trimmed and cleaned out toenail. He had been 
taking Keflex prior to admission for possible infection, and 
will continue taking this antibiotic to complete a 7-day 
treatment course.

Inactive Issues:
# Acute kidney injury: Patient's creatinine peaked at 2.2 in 
___ after initiating methotrexate. It has come down and 
stabilized at 1.4-1.5 since then. We monitored the patient's 
renal function carefully while on high dose Ara-C and it is 
currently stable.

# Retinal vein occlusion: Patient has a history of retinal vein 
occlusion in the setting of CNS involvement of his mantle cell 
lyphoma/leukemia with choroidal deposits. He is s/p Avastin 
injection in ___. His vision is currently stable and the 
patient has no complaints. He will follow up with his outpatient 
ophthalmologist.

Transitions of Care:
1. Code Status: Full  
2. Contact: Wife ___ 
3. ___ Studies: None
4. Medication Changes: 
-Continue taking Keflex until ___ to complete a 7 day course
-Prednisolone eyedrops three times a day in both eyes until 48 
hours after your last chemotherapy dose (until ___
5. Follow up: 
-Dr. ___ (Oncology)
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientwebOMR.
1. Allopurinol ___ mg PO DAILY 
2. Lorazepam 0.5-1 mg PO Q8H:PRN anxiety or nausea 
3. Omeprazole 20 mg PO DAILY 
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. Sulfameth/Trimethoprim DS 1 TAB PO QMOWEFR 
6. Biotene Dry Mouth *NF* (lactoperoxi-gluc oxid-pot thio)    
Mucous Membrane BID 
7. Clotrimazole Cream 1 Appl TP BID 
8. Cephalexin 500 mg PO Q6H 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Ondansetron 8 mg PO Q8H:PRN nausea 
3. Sulfameth/Trimethoprim DS 1 TAB PO QMOWEFR 
4. Biotene Dry Mouth *NF* (lactoperoxi-gluc oxid-pot thio) 0  cc 
MUCOUS MEMBRANE BID 
5. Clotrimazole Cream 1 Appl TP BID 
6. Cephalexin 500 mg PO Q6H 
7. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES TID 
continue 48 hours after last dose of cytarabne 
RX *prednisolone acetate 1 % 1 drop eyes three times a day Disp 
#*1 Vial Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Mantle cell lymphoma

Secondary: 
Ingrown toenail

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you in the hospital.  You were 
admitted for your second cycle of chemotherapy with high dose 
Ara-C.  You tolerated the chemotherapy well and you were 
discharged home.  

While you were in the hospital, you were seen by podiatry for an 
ingrown toenail that was trimmed.  

You should continue taking the antibiotic (cephalexin 500mg 
every 6 hours) until ___ to complete a 7 day course

You should use the prednisolone eyedrops three times a day in 
both eyes until 48 hours after your last chemotherapy dose. Your 
last chemotherapy was on ___ so you should continue the 
drops until ___.

Please continue your other medications as you were doing. 
 
Followup Instructions:
___